US07888359B2
13.i. 6-methoxy-4-vinyl-quinoline:
InCl3 (1.1 g, 5 mmol) was dried under HV by heating with a heat gun. After cooling under N2 atmosphere, THF (25 mL) was added and the mixture sonicated until a solution had formed. This solution was cooled to −78° C., and a 1.7M solution of vinyl magnesium chloride (15 mmol) was added dropwise. The mixture was stirred at −78° C. for 15 min, warmed to rt and the resulting solution was added to a refluxing mixture of 4-bromo-6-methoxy-quinoline (1.85 g, 10 mmol) and Pd(dppf)Cl2.CH2Cl2 complex (0.408 g) in THF (25 mL). The mixture was refluxed for 2 h until tlc indicated complete conversion. The mixture was cooled to rt, quenched by addition of a few drops of MeOH and SiO2 (20 g) was added. The volatiles were removed under reduced pressure and the residue was chromatographed over SiO2 (Hex/EA 1:1) to give the desired compound (0.4 g, 21% yield) as a yellowish oil.

reactant | vinyl magnesium chloride | 15 mmol | C(=C)[Mg]Cl
reactant | 4-bromo-6-methoxy-quinoline | 10 mmol, 1.85 g | BrC1=CC=NC2=CC=C(C=C12)OC | C10H8BrNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-methoxy-4-vinyl-quinoline | 0.4 g, 21% yield | COC=1C=C2C(=CC=NC2=CC1)C=C | C12H11NO
